US05376686
Preparation of N1 -benzyl-N5 -dodecyl-biguanide hydrochloride
To 20 g of N1 -cyano-N3 -benzyl-guanidine and 25.4 g of dodecylamine hydrochloride, 200 ml of mesitylene was added, which was heated and refluxed for 2 hours. After reaction, by the same operation as in Example 1, 23.7 g of the captioned compound was obtained.

reactant | N1 -cyano-N3 -benzyl-guanidine | 20 g | C(#N)NC(=N)NCC1=CC=CC=C1 | C9H10N4
reactant | dodecylamine hydrochloride | 25.4 g | Cl.C(CCCCCCCCCCC)N
solvent | mesitylene | 200 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | N1 -benzyl-N5 -dodecyl-biguanide hydrochloride | 23.7 g | Cl.C(C1=CC=CC=C1)NC(=N)NC(=N)NCCCCCCCCCCCC | InChI=1S/C21H37N5.ClH/c1-2-3-4-5-6-7-8-9-10-14-17-24-20(22)26-21(23)25-18-19-15-12-11-13-16-19;/h11-13,15-16H,2-10,14,17-18H2,1H3,(H5,22,23,24,25,26);1H
